US07615651B2
Preparation of Intermediate 2′-Chloro-4′-hydroxymethyl-biphenyl-3-carboxylic acid amide (I-6d)
2′-Chloro-4′-hydroxymethyl-biphenyl-3-carbonitrile (I-6c) was dissolved in 50 mL of dimethylsulfoxide and treated with potassium carbonate (2.8 g) followed by an aqueous hydrogen peroxide solution (10 mL of a 30% solution). After 18 hours, the reaction mixture was combined with 200 mL of water and extracted with ethyl acetate. The organic layer was washed twice with water, dried over magnesium sulfate, filtered and concentrated under reduced pressure to afford the title compound (I-6d).

reactant | 2′-Chloro-4′-hydroxymethyl-biphenyl-3-carbonitrile | ClC1=C(C=CC(=C1)CO)C1=CC(=CC=C1)C#N | C14H10ClNO
reactant | potassium carbonate | 2.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrogen peroxide | OO | H2O2
reactant | water | 200 mL | O | H2O
solvent | dimethylsulfoxide | 50 mL | CS(=O)C | C2H6OS
product | 2′-Chloro-4′-hydroxymethyl-biphenyl-3-carboxylic acid amide | ClC1=C(C=CC(=C1)CO)C1=CC(=CC=C1)C(=O)N | C14H12ClNO2
